US08357717B2
Stage 1: Methyl 4-(diethoxymethyl)-1H-imidazole-5-carboxylate
A mixture of diethoxyacetonitrile (38.72 mmol, 1 equiv.) and methyl isocyanoacetate (99.1 mmol, 1.4 equiv.) in dry bis(2-methoxyethyl)ether (20 ml) was added to a suspension of 30-35% KH (54.2 mmol, 1.4 equiv.) in dry bis(2-methoxyethyl)ether (30 ml). The resulting mixture was heated overnight at 70-80° C. The reaction mixture was then cooled to 25° C., and sat. NH4Cl solution (20 ml) was added. DCM (100 ml) was added, and the phases were separated. The aqueous phase was extracted with DCM (2×75 ml) and the combined organic phases were dried over Na2SO4 and filtered, and the solvent was removed in vacuo. Cold ether (10 ml) was added to the brown oil so obtained, and the resulting solid was filtered out and washed with ether. The desired product was thus obtained in the form of a yellow solid. Yield: 26%

reactant | diethoxyacetonitrile | 38.72 mmol, 1 equiv. | C(C)OC(C#N)OCC | C6H11NO2
reactant | methyl isocyanoacetate | 99.1 mmol, 1.4 equiv. | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
reactant | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | bis(2-methoxyethyl)ether | 20 ml | COCCOCCOC | C6H14O3
solvent | bis(2-methoxyethyl)ether | 30 ml | COCCOCCOC | C6H14O3
product | Methyl 4-(diethoxymethyl)-1H-imidazole-5-carboxylate | Yield: 26% | C(C)OC(C=1N=CNC1C(=O)OC)OCC | C10H16N2O4
